Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
difficulty speaking, weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mrs. ___ is a ___ year old healthy right-handed woman
with only moderate hypertension who presented to ___ ED as
post-tPA code stroke. History obtained by family at bedside and
as per chart review. 

She was reportedly in her usual state of health (described as 
mRs
___ and was watching the ___ parade. After the parade, she
went inside to sit on the couch. As soon as she sat on the couch
at approximately 13:30, she developed acute onset aphasia with
right-sided weakness. Her grandson described a glazed over
appearance, without any word output and with right arm and leg
weakness. She did not fall over. She had no shaking episodes or
incontinence. EMS was called and she was taken to ___ 
where
___ was without hemorrhage and tPA was initiated at 15:45. She
was transferred to ___ for CTA head and neck and for post-tPA
care. Chart review on OSH does not note NIHSS. Per family, the
patient was reportedly not talking, not following commands, not
understanding on arrival to the hospital with no movement in her
right arm. Her right leg was moving spontaneously. She received
tPA at 15:45 and within ~ 15 minutes, she started talking more
and was able to move her right arm.

Finger stick was wnl and blood pressures were unremarkable.

 
Past Medical History:
hypertension
 
Social History:
___
Family History:
non-contributory given age   
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Vitals: afebrile; HR80s, RR16021, B140s/100 95RA
General: Awake, cooperative, NAD. Appears much younger than
stated age
HEENT: chapped lips
Neck: Supple
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert and interactive. Able to say name, age,
month, year. Cracks jokes with examiner, saying "Oh gosh don't
make me" when asked re: President. Able to tell me how many
grandchildren she has. Some word-finding difficulty with
low-frequency objects. Minimal spontaneous speech output.
Difficulty ending phrases. Difficulty following simple two-step
commands and some difficulty with appendicular commands (lifts
both arms instead of one; unable to point to side that I am
touching when attempting to test for neglect/extinction to DSS).
Could not count understand request to evaluate finger counting 
on
field exam.

-Cranial Nerves: PERRL 2.5 to 1.5 mm and brisk. EOMI without
nystagmus. VFF to confrontation. Right NLFF with delayed
activation. Tongue midline. Speech is not dysarthric. Diminished
hearing bilaterally (need to speak loudly)

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    4+   5    4+   4    5    4   4+   5    5   4+   5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS on
re-assessment after initial NIHSS (~ 3 hrs after initial
assessment).

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred, recent tPA, fall risk.

DISCHARGE PHYSICAL EXAMINATION
General: Awake, cooperative, NAD, sitting up and eating 
breakfast
HEENT: ATNC
Neck: Supple
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert and interactive. Speaking in full 
sentences
without difficulty. 

-Cranial Nerves: PERRL and brisk. EOMI without
nystagmus. Diminished hearing bilaterally (need to speak loudly)

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
Symmetric strength in bilateral upper and lower extremities. 

-Sensory: No deficits to light touch, No extinction to DSS 

-Reflexes:
deferred

-Coordination: No dysmetria on FNF

-Gait: Deferred

 
Pertinent Results:
ADMISSION LABS
___ 05:30PM BLOOD WBC-11.3* RBC-4.72 Hgb-13.7 Hct-42.5 
MCV-90 MCH-29.0 MCHC-32.2 RDW-13.2 RDWSD-43.3 Plt ___
___ 05:30PM BLOOD Glucose-107* UreaN-32* Creat-1.0 Na-136 
K-3.9 Cl-102 HCO3-24 AnGap-10
___ 05:30PM BLOOD ALT-12 AST-18 AlkPhos-83 TotBili-0.5
___ 07:10PM BLOOD %HbA1c-5.7 eAG-117
___ 07:10PM BLOOD Triglyc-65 HDL-63 CHOL/HD-2.4 LDLcalc-75
___ 07:10PM BLOOD TSH-1.8

brain MRI ___
1. Numerous scattered, punctate acute/subacute infarcts within
the left MCA territory without associated hemorrhage or mass
effect. 
2. Additional focus of slow diffusion in the anterior left
frontal lobe is indeterminate and may represent ACA territory
infarct or artifact. 
3. Additional findings include age-related atrophy and sequelae
of chronic small vessel ischemic disease as described above. 

repeat head CT ___
1. No acute intracranial hemorrhage/hemorrhagic transformation. 
2. Areas of slow diffusion seen on the same day MR are not
clearly correlated on this CT, although MR is more sensitive for
the assessment of stroke.  No CT evidence of acute large
territory infarction. 
3. Global involutional changes related to age. 
4. Findings of chronic small vessel ischemic disease. 

DISCHARGE LABS
___ 07:10PM BLOOD WBC-6.0 RBC-4.38 Hgb-13.0 Hct-38.5 MCV-88 
MCH-29.7 MCHC-33.8 RDW-13.1 RDWSD-42.0 Plt ___
___ 07:10PM BLOOD Glucose-104* UreaN-21* Creat-1.0 Na-137 
K-3.6 Cl-101 HCO3-24 AnGap-12
___ 07:10PM BLOOD ALT-10 AST-17 LD(LDH)-165 AlkPhos-80 
TotBili-0.8
___ 07:10PM BLOOD Albumin-3.7 Calcium-8.4 Phos-3.2 Mg-1.8 
Cholest-___ is a ___ year old previously healthy woman who 
suffered acute
onset aphasia with right-sided weakness, with concern for left 
MCA stroke. She was transferred to ___ s/p tPA at OSH with 
reported near-instantaneous improvement. NIHSS at OSH only 
reported as 3 but per family description presentation was 
initially at least 8. 

On arrival to ___, NIHSS3. No large vessel occlusion on CTA. 
Impression is likely distal left MCA stroke. Etiology possibly 
cardio-embolic, although patient has no documented history of 
atrial fibrillation. MRI brain showed numerous scattered, 
punctate acute/subacute infarcts within the left MCA territory. 
Repeat head CT 24h after tpa showed no hemorrhage. NIHSS was 0 
24h after tpa. Physical therapy cleared her for home and she was 
discharged with ZIO patch and instructions to follow up in 
outpatient stroke clinic and echo. Nitrofurantoin was started 
for E Coli UTI.

TRANSITIONAL ISSUES
[] aspirin 81mg qd was started
[] atorvastatin 20mg qpm was started
[] nitrofurantoin 100mg BID was started and should continue for 
5 days (last day ___
[] Please follow up with Neurology and your primary care 
physician. You will need an outpatient heart ultrasound. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 75 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
1. Atenolol 25 mg PO DAILY 
2. Vitamin D 400 UNIT PO DAILY 
3. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
4. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*2 
3.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H UTI 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*9 Capsule Refills:*0 
4.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
5.  Atenolol 25 mg PO DAILY  
6.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
7.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#acute ischemic stroke
#hypertension
#hyperlipidemia
#urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

 You were hospitalized due to symptoms of speech difficulties 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 high cholesterol
 high blood pressure
 
 We are changing your medications as follows:  
 aspirin 81mg was started
 atorvastatin 40mg was started

 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care 
physician.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___